US04745115
5-Chloro-1-(2'-fluorophenyl)-1,4-dihydro-benz[g]isoquinol-3-one
From 1-chloro-2-naphthylacetonitrile and 2-fluorobenzaldehyde, m.p. 206°-9° (ethanol).

reactant | 1-chloro-2-naphthylacetonitrile | ClC1=C(C=CC2=CC=CC=C12)CC#N | C12H8ClN
reactant | 2-fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | ethanol | C(C)O | C2H6O
product | 5-Chloro-1-(2'-fluorophenyl)-1,4-dihydro-benz[g]isoquinol-3-one | ClC1=C2CC(NC(C2=CC2=C1C=CC=C2)C2=C(C=CC=C2)F)=O | C19H13ClFNO
